US05672779
After 10 g of (RS)-4-hydroxy-3-methyl-2-(2,2,2-trifluoroethyl)cyclopent-2-en-1-one and 4.2 g of imidazole were dissolved in 100 ml of dry dimethylformamide, 8.54 g of t-butyldimethylchlorosilane was added to the solution at an ambient temperature. After stirring at an ambient temperature for 12 hours, the reaction solution was added to 5% aqueous citric acid under ice-water cooling, and extracted three times with diethyl ether. The combined organic layer was washed successively with a saturated sodium hydrogencarbonate solution and a saturated sodium chloride solution, and dried with anhydrous magnesium sulfate. After removal of the solvent under reduced pressure, the residue was subjected to silica gel column chromatography to yield 14.3 g of (RS)-4-t-butyldimethylsilyloxy-3-methyl-2-(2,2,2-trifluoroethyl)cyclopent-2-en-1-one. Yield 90% (Eluent: n-hexane/ethyl acetate=5/1 (v/v))

reactant | (RS)-4-hydroxy-3-methyl-2-(2,2,2-trifluoroethyl)cyclopent-2-en-1-one | 10 g | OC1C(=C(C(C1)=O)CC(F)(F)F)C | C8H9F3O2
reactant | imidazole | 4.2 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 8.54 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (RS)-4-t-butyldimethylsilyloxy-3-methyl-2-(2,2,2-trifluoroethyl)cyclopent-2-en-1-one | 14.3 g, Yield 90% | [Si](C)(C)(C(C)(C)C)OC1C(=C(C(C1)=O)CC(F)(F)F)C | C14H23F3O2Si
